US04043887
Synthesis of the novel compounds was carried out according to the following method. Benzoic acid (1.68 moles) was added to 3.96 moles of o-xylene and 0.6 mole POCl3 and refluxed at 140° C. for 11 hours. The reaction product was cooled to room temperature, washed once with 500 ml. of water, twice with 300 ml. of 5% of Na2C03 and twice again with 500 ml. of water. After washing, the xylene was distilled and the residue was vacuum distilled to obtain 3,4-dimethylbenzophenone. A mixture of 3,4-dimethylbenzophenone (1.0 mole), benzoyl peroxide (5 grams), chlorobenzene (800 ml.) and 3.0 moles of sulfuryl chloride was heated at 90° C. for 31/2 hours. During the last 30 minutes of the reaction nitrogen was passed through the reactor to remove the excess sulfuryl chloride. The resultant mixture was cooled and 50 grams of carbon black was added and the mixture stirred for 30 minutes, after which the carbon black was removed by filtration. The product 3,4-bis(chloromethyl)benzophenone was isolated by stripping of the solvent. Analysis found: 62.1% C, 4.3% H, and 27.1% Cl. Theoretical: 64.5% C, 4.3% H, and 25.5% Cl.

reactant | Benzoic acid | 1.68 moles | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | o-xylene | 3.96 moles | CC=1C=CC=CC1C | C8H10
reactant | POCl3 | 0.6 mole | O=P(Cl)(Cl)Cl | Cl3OP
product | 3,4-dimethylbenzophenone | CC=1C=C(C(=O)C2=CC=CC=C2)C=CC1C | C15H14O
